US08461328B2
To a solution of 1-Benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (580 mg, 1.7 mmol) in n-butanol (20 mL) were added diisopropylethylamine (DIPEA) (1.4 mL, 8.4 mmol) and 3-Amino-3-methyl-piperidine-1-carboxylic acid benzyl ester (420 mg, 1.7 mmol). The mixture was heated to reflux overnight, and LCMS showed 1-Benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine consumed. The reaction mixture was purified by column chromatography (eluting with 30˜35% ethyl acetate in hexane) to give 400 mg (43%) of 3-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-3-methyl-piperidine-1-carboxylic acid benzyl ester. LCMS (Method J, ESI): RT=1.32 min, m+H=549.8; 1H NMR (400 MHz, CDCl3) δ: 9.60 (s, 1H), 9.10 (s, 1H), 8.20 (m, 2H), 7.70-7.50 (m, 4H), 7.40-7.30 (m, 5H), 5.34 (m, 2H), 3.90-3.80 (m, 1H), 2.30-2.20 (m, 1H), 1.90-1.50 (m, 9H).

reactant | 1-Benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 1.7 mmol, 580 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | diisopropylethylamine | 8.4 mmol, 1.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-Amino-3-methyl-piperidine-1-carboxylic acid benzyl ester | 1.7 mmol, 420 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)(C)N | C14H20N2O2
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
product | 3-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-3-methyl-piperidine-1-carboxylic acid benzyl ester | 400 mg, 43% | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)(C)NC1=C2C(=NC=C1[N+](=O)[O-])N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C27H27N5O6S
